US07666879B2
B. 3-Bromo-7-thiazol-2-yl-imidazo[1,2-a]pyridine
Dissolve 7-thiazol-2-yl-imidazo[1,2-a]pyridine (1.14 g, 5.66 mmol) in 25 mL absolute ethanol, then add NBS (1.0 g, 5.66 mmol), stir the mixture at room temperature for 15 minutes, dilute with 35 mL dichloromethane and apply to a 10 g SCX Mega Bond-Elut™ cartridge (Varian) pre-washed with 150 mL 1:1 CH2Cl2:MeOH. Wash the SCX cartridge with 300 mL 1:1 CH2Cl2:MeOH, elute with 150 mL CH2Cl2:2 M NH3-MeOH, and concentrate the eluates and dry to provide 1.07 g (67%) of the title compound as a tan solid. MS (ES) 280, 282.

reactant | 7-thiazol-2-yl-imidazo[1,2-a]pyridine | 5.66 mmol, 1.14 g | S1C(=NC=C1)C1=CC=2N(C=C1)C=CN2 | C10H7N3S
reactant | NBS | 5.66 mmol, 1.0 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 3-Bromo-7-thiazol-2-yl-imidazo[1,2-a]pyridine | 1.07 g, 67% | BrC1=CN=C2N1C=CC(=C2)C=2SC=CN2 | C10H6BrN3S
